US07842696B2
DIPEA (880 mg, 1.2 mL, 6.8 mmol) was added to a stirred solution of biphenyl-4-carboxylic acid (300 mg, 1.5 mmol) in DMF (5 mL). HOBT (224 mg, 1.66 mmol) and EDCI (725 mg, 3.7 mmol) were then added at room temperature. After 2 minutes methylamino-acetic acid methyl ester hydrochloride salt (253 mg, 1.8 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 20% EtOAc in hexane as eluent) filtered the solid precipitated out to afford 330 mg (76.96% yield) of [(biphenyl-4-carbonyl)-methyl-amino]-acetic acid methyl ester.

reactant | DIPEA | 6.8 mmol, 1.2 mL, 880 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-4-carboxylic acid | 1.5 mmol, 300 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | HOBT | 1.66 mmol, 224 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 3.7 mmol, 725 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | methylamino-acetic acid methyl ester hydrochloride salt | 1.8 mmol, 253 mg | Cl.COC(CNC)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [(biphenyl-4-carbonyl)-methyl-amino]-acetic acid methyl ester | 330 mg, 76.96% yield | COC(CN(C)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C17H17NO3
